US08563505B2
NaH (60% in oil) (46 mg, 1.163 mmol) was added to a solution of (2S,4R)-2-methyl 1-(2-(trimethylsilyl)ethyl) 4-(4′-(dimethylamino)-2′-vinylbiphenyl-4-yl)-4-hydroxypyrrolidine-1,2-dicarboxylate (330 mg, 0.646 mmol) and methyl iodide (0.073 mL, 1.163 mmol) at 0° C. in DMF and stirred at this temperature and allowed to warm up to r.t. overnight. The reaction was then quenched with saturated NH4Cl solution and ether. The ether layer was washed with brine, dried, filtered and evaporated to give crude material. The crude material was purified by flash chromatography on the Biotage (5-45% EtOAc in hexanes) to give the semi purified (2S,4R)-2-methyl 1-(2-(trimethylsilyl)ethyl) 4-(4′-(dimethylamino)-2′-vinylbiphenyl-4-yl)-4-methoxypyrrolidine-1,2-dicarboxylate (231 mg, 0.440 mmol, 68% yield) as a clear oil. LCMS: rt=1.86 min. [M+H]+=525; Phenomenex-Luna C-18 (5μ) (3.0×50 mm); Solvent A=10% acetonitrile—90% water—0.1% TFA, Solvent B=90% acetonitrile—10% water—0.1% TFA; gradient 0% to 100% solvent B over 2 min. and then hold for 1 min.; 4 mL/min; inj. vol.=5 uL; wavelength=220.

reactant | NaH | 1.163 mmol, 46 mg | [H-].[Na+]
reactant | (2S,4R)-2-methyl 1-(2-(trimethylsilyl)ethyl) 4-(4′-(dimethylamino)-2′-vinylbiphenyl-4-yl)-4-hydroxypyrrolidine-1,2-dicarboxylate | 0.646 mmol, 330 mg | CN(C1=CC(=C(C=C1)C1=CC=C(C=C1)[C@@]1(C[C@H](N(C1)C(=O)OCC[Si](C)(C)C)C(=O)OC)O)C=C)C | C28H38N2O5Si
reactant | methyl iodide | 1.163 mmol, 0.073 mL | CI | CH3I
solvent | DMF | CN(C)C=O | C3H7NO
product | (2S,4R)-2-methyl 1-(2-(trimethylsilyl)ethyl) 4-(4′-(dimethylamino)-2′-vinylbiphenyl-4-yl)-4-methoxypyrrolidine-1,2-dicarboxylate | 0.440 mmol, 231 mg, 68% yield | CN(C1=CC(=C(C=C1)C1=CC=C(C=C1)[C@@]1(C[C@H](N(C1)C(=O)OCC[Si](C)(C)C)C(=O)OC)OC)C=C)C | C29H40N2O5Si
